US08557983B2
tert-butyl 1-(cyclopropylmethyl)piperidin-4-ylcarbamate
The title compound was prepared by substituting cyclopropanecarbaldehyde for 4′-chlorobiphenyl-2-carboxaldehyde and tert-butyl piperidin-4-ylcarbamate for tert-butyl piperazine-1-carboxylate in EXAMPLE 1A.

reactant | 4′-chlorobiphenyl-2-carboxaldehyde | ClC1=CC=C(C=C1)C=1C(=CC=CC1)C=O | C13H9ClO
reactant | tert-butyl piperidin-4-ylcarbamate | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | tert-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | tert-butyl 1-(cyclopropylmethyl)piperidin-4-ylcarbamate | C1(CC1)CN1CCC(CC1)NC(OC(C)(C)C)=O | C14H26N2O2
